US07091199B1
Preparation of 3-[3-(2-piperidin-1-yl-ethoxy)-phenyl]-thieno[2,3-d]isoxazole (Scheme 1, Compound 1)
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, piperidine and acetonitrile essentially as described above in example 18 except that the reaction is run overnight and the compound is purified by column chromatography using a graded solvent mixture of 5% ethyl acetate in dichloromethane to 10% methanol in ethyl acetate. Purity by LC/MS (APCI)=98%, [M+H]+=329.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[3-(2-piperidin-1-yl-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | N1(CCCCC1)CCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C18H20N2O2S
